US07842685B2
To a stirred solution of 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)benzoic acid (0.222 g, 0.569 mmol) in 1,2-dichloroethane (1.5 mL, 19 mmol) and acetonitrile (1.5 mL, 29 mmol) under argon were added chlorosulfonyl isocyanate (0.074 mL, 0.853 mmol) and triethylamine (0.12 mL, 0.853 mmol). The reaction mixture was stirred at 90° C. for 18 h. The cooled reaction mixture was diluted with CH2Cl2 and washed with saturated aqueous NaHCO3 solution and brine; dried (MgSO4). ISCO purification (with 10% to 50% EtOAc/hexanes) afforded 3-fluoro-4-(5-(1-phenylcyclopropyl)-thiazolo[5,4-b]pyridine-2-yl)benzonitrile as an off-white solid. MS (ESI) m/z: Calculated: 371.1; Observed: 372.0 (M++1).

reactant | 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)benzoic acid | 0.569 mmol, 0.222 g | FC=1C=C(C(=O)O)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C22H15FN2O2S
reactant | 1,2-dichloroethane | 19 mmol, 1.5 mL | ClCCCl | C2H4Cl2
reactant | acetonitrile | 29 mmol, 1.5 mL | C(C)#N | C2H3N
reactant | chlorosulfonyl isocyanate | 0.853 mmol, 0.074 mL | ClS(=O)(=O)N=C=O | CClNO3S
reactant | triethylamine | 0.853 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-fluoro-4-(5-(1-phenylcyclopropyl)-thiazolo[5,4-b]pyridine-2-yl)benzonitrile | FC=1C=C(C#N)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C22H14FN3S
